US07888329B2
2-{3-[1-((2-Methoxy)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine.
2-Methoxyphenyl 4-(prop-2-ynyl)piperidine-1-carboxylate (0.565 g, 2.067 mmol) was added to a solution of 2-iodoadenosine (0.650 g, 1.653 mmol) according to general procedure 2: yield 775 mg, 87%. 1H NMR (CD3OD) δ 8.30 (s, 1H), 7.24-7.17, 7.09-7.04, 6.97-6.91 (3×m, 4H), 5.96 (d, 1H, J=6.5 Hz), 4.74 (dd, 1H, J=5.1, J=6.4 Hz), 4.43-4.32 (m, 2H), 4.25-4.16 (m, 2H), 3.96-3.89, 3.82 (s, 3H), 3.80-3.74, (2×m, 2H), 3.07, 2.92 (2×br t, 2H), 2.51 (d, 2H, J=6.0 Hz), 2.03-1.85, 1.60-1.35 (2×m, 5H). 13C NMR (CD3OD) δ 157.3, 155.5, 153.1, 150.2, 147.5, 142.6, 141.9, 127.6, 124.1, 121.7, 120.4, 113.7, 91.3, 88.3, 86.7, 82.2, 75.5, 72.6, 64.7, 63.5, 56.4, 45.8, 36.6, 32.5, 26.5, 25.2. LRMS ESI (M+H+) 539.1. HPLC rt=5.1 min.

reactant | 2-Methoxyphenyl 4-(prop-2-ynyl)piperidine-1-carboxylate | 2.067 mmol, 0.565 g | C(C#C)C1CCN(CC1)C(=O)OC1=C(C=CC=C1)OC | C16H19NO3
reactant | 2-iodoadenosine | 1.653 mmol, 0.650 g | IC=1N=C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N1)N | C10H12IN5O4
product | 2-{3-[1-((2-Methoxy)phenoxycarbanoyl)piperidin-4-yl]propyn-1-yl}adenosine | COC1=C(OC(=O)N2CCC(CC2)CC#CC=2N=C(C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N2)N)C=CC=C1 | C26H30N6O7
